US04382929
N-[[[2-[[5-(Dimethylaminomethyl)-3-thienylmethyl]thio]ethyl]amino](methylamino)methylene]methanesulphonamide
A mixture of 4-[[2-(amino)ethyl]thio]methyl-N,N-dimethyl-2-thiophenemethanamine (0.4 g) and S,S'-dimethyl-N- (methylsulphonyl)-dithio-carbonimidic acid (0.35 g) in ethanol (10 ml) was heated at 60° C. for 1 hour. A 33% solution of methylamine in ethanol (10 ml) was added and the mixture was stirred for 20 h. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica using methanol to give the title compound (0.5 g) as an amber gum.

reactant | 4-[[2-(amino)ethyl]thio]methyl-N,N-dimethyl-2-thiophenemethanamine | 0.4 g | NCCSCC=1C=C(SC1)CN(C)C | C10H18N2S2
reactant | S,S'-dimethyl-N- (methylsulphonyl)-dithio-carbonimidic acid | 0.35 g | CSC(SC)=NS(=O)(=O)C | C4H9NO2S3
reactant | methylamine | CN | CH5N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[[[2-[[5-(Dimethylaminomethyl)-3-thienylmethyl]thio]ethyl]amino](methylamino)methylene]methanesulphonamide | 0.5 g | CN(C)CC1=CC(=CS1)CSCCNC(=NS(=O)(=O)C)NC | C13H24N4O2S3
